US06864396B2
To a mixture of 12.7 grams of 2,5-bis(4-methylbenzyl)terephthalic acid and 90 mL of trifluoroacetic acid was added 81.6 grams of trifluoromethanesulfonic acid. The mixture was stirred 22 hours at room temperature. The mixture was poured over 500 grams of ice. The resulting solid precipitate was collected by filtration, and washed with 750 mL of saturated aqueous sodium bicarbonate and then with 1 L of water until the filtrate was neutral to pH paper. The solid was washed with heptane and dried to give 7,14-dihydro-3,10-dimethylpentacene-5,12-dione.

reactant | 2,5-bis(4-methylbenzyl)terephthalic acid | 12.7 grams | CC1=CC=C(CC2=C(C(=O)O)C=C(C(=C2)C(=O)O)CC2=CC=C(C=C2)C)C=C1 | C24H22O4
reactant | trifluoromethanesulfonic acid | 81.6 grams | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | trifluoroacetic acid | 90 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7,14-dihydro-3,10-dimethylpentacene-5,12-dione | CC=1C=CC=2CC3=CC=4C(C5=CC(=CC=C5CC4C=C3C(C2C1)=O)C)=O | C24H18O2
